US06953790B2
Step D: Benzyl (3R)-1-(2,4-dimethoxybenzyl)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate
[1,3-bis-(2,4,6-trimethylphenyl-2-imidazolidinylidene)dichloro(phenylmethylene)-(tricyclohexylphosphine)ruthenium] (Grubbs second generation catalyst) (0.68 g, 0.79 mmol) was added to a solution of benzyl (1R)-1-{[(2,4-dimethoxybenzyl)(2-phenylprop-2-enyl)amino]carbonyl}but-3-enylcarbamate (2.02 g, 3.93 mmol) in dichloromethane (395 mL) and heated to 40° C. After 40 h, the mixture was allowed to cool to ambient temperature and concentrated. Purification by silica gel chromatography (5% ethyl acetate/hexanes→30% ethyl acetate/hexanes) gave the title compound (1.00 g). MS 487 (M+1). 1H NMR (500 MHz, CDCl3) δ 7.39-7.31 (m, 5H), 7.26-7.19 (m, 3H), 7.17 (d, J=8.3 Hz, 1H), 6.99 (d, J=7.1 Hz, 2H), 6.41 (dd, J=8.3, 2.0 Hz, 1H), 6.33 (s, 1H), 6.22 (d, J=6.4 Hz, 1H), 5.77-5.76 (m, 1H), 5.16-5.09 (m, 3H), 4.82 (d, J=14.7 Hz, 1H), 4.65 (dd, J=17.6, 2.7 Hz, 1H), 4.54 (d, J=14.4 Hz, 1H), 3.93 (d, J=17.6 Hz, 1H), 3.77 (s, 3H), 3.64 (s, 3H), 2.91-2.86 (m, 1H), 2.42-2.36 (m, 1H).

reactant | benzyl (1R)-1-{[(2,4-dimethoxybenzyl)(2-phenylprop-2-enyl)amino]carbonyl}but-3-enylcarbamate | 3.93 mmol, 2.02 g | COC1=C(CN(C(=O)[C@@H](CC=C)NC(OCC2=CC=CC=C2)=O)CC(=C)C2=CC=CC=C2)C=CC(=C1)OC | C31H34N2O5
catalyst | Grubbs second generation | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | dichloromethane | 395 mL | ClCCl | CH2Cl2
product | Benzyl (3R)-1-(2,4-dimethoxybenzyl)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 1.00 g | COC1=C(CN2C([C@@H](CC=C(C2)C2=CC=CC=C2)NC(OCC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C29H30N2O5
